US04716161
3-[2-[4-(2-methoxyphenyl)-1-piperazinyl]ethyl]-7-acetylamino-1,2,3,4-tetrahydroquinazoline-2,4-dione (Compound No. 17)
Four hundred and forty miligrams of urea was added to 1.5 g of 1-(2-methoxyphenyl)-4-[2-(4-acetylamino-2-aminobenzoyl)aminoethyl]piperazine to react at 160° C. for 8 hours. The reaction liquid was extracted with chloroform and purified through the silica gel chromatography to obtain 0.96 g of the titled compound (yield: 60%).

reactant | urea | NC(=O)N | CH4N2O
reactant | 1-(2-methoxyphenyl)-4-[2-(4-acetylamino-2-aminobenzoyl)aminoethyl]piperazine | 1.5 g | COC1=C(C=CC=C1)N1CCN(CC1)CCNC(C1=C(C=C(C=C1)NC(C)=O)N)=O | C22H29N5O3
product | 3-[2-[4-(2-methoxyphenyl)-1-piperazinyl]ethyl]-7-acetylamino-1,2,3,4-tetrahydroquinazoline-2,4-dione | 0.96 g, yield: 60% | COC1=C(C=CC=C1)N1CCN(CC1)CCN1C(NC2=CC(=CC=C2C1=O)NC(C)=O)=O | C23H27N5O4
